US06034099
From the reaction of 4-(4-(2-ethylanilinomethylene)-4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzoic acid and diluted diethylamine solution, N,N-diethyl-4-(4-(2-ethylanilinomethylene)-4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzamide is obtained, Mp 123° C.

reactant | 4-(4-(2-ethylanilinomethylene)-4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzoic acid | C(C)C1=C(NC=C2C(=NN(C2=O)C2=CC=C(C(=O)O)C=C2)CCC)C=CC=C1 | C22H23N3O3
reactant | diethylamine | C(C)NCC | C4H11N
product | N,N-diethyl-4-(4-(2-ethylanilinomethylene)-4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzamide | C(C)N(C(C1=CC=C(C=C1)N1N=C(C(C1=O)=CNC1=C(C=CC=C1)CC)CCC)=O)CC | C26H32N4O2
